US07470699B2
Preparation of 4-[6-(4-Bromo-2,5-difluoro-phenylamino)-5-methyl-pyrimidin-4-yloxy]-piperidine-1-carboxylic acid isopropyl ester (Compound A86)
A mixture of 4-(6-chloro-5-methyl-pyrimidin-4-yloxy)-piperidine-1-carboxylic acid isopropyl ester (1.03 g, 3.28 mmol), palladium acetate (74 mg, 0.33 mmol), biphenyl-3-yl-di-tert-butyl-phosphane (9.7 mg, 0.033 mmol), sodium tert-butoxide (708 mg, 7.36 mmol), and 4-bromo-2,5-difluoro-phenylamine (706 mg, 3.39 mmol) in 15 mL dioxane was heated in microwave for 1 hour at 120° C. Solids were filtered off and mixture was purified by column chromatography (hexane/AcOEt) and crystallized from hexane/AcOEt to give compound A86 as a tanned solid (652 mg, 41%). 1H NMR (CDCl3, 400 MHz) δ 1.04-1.05 (d, 6H), 1.50-1.61 (m, 2H), 1.74-1.82 (m, 2H), 1.89 (s, 3H), 3.16-3.22 (m, 2H), 3.51-3.60 (m, 2H), 4.69-4.76 (m, 1H), 5.09-5.15 (m, 1H), 6.34-6.36 (m, 1H), 7.07-7.11 (m, 1H), 8.15(s, 1H), 8.34-8.38(m, 1H). Exact mass calculated for C20H23BrF2N4O3 484.09, found 485.2 (MH+).

reactant | 4-(6-chloro-5-methyl-pyrimidin-4-yloxy)-piperidine-1-carboxylic acid isopropyl ester | 3.28 mmol, 1.03 g | C(C)(C)OC(=O)N1CCC(CC1)OC1=NC=NC(=C1C)Cl | C14H20ClN3O3
reactant | sodium tert-butoxide | 7.36 mmol, 708 mg | CC(C)([O-])C.[Na+]
reactant | 4-bromo-2,5-difluoro-phenylamine | 3.39 mmol, 706 mg | BrC1=CC(=C(C=C1F)N)F | C6H4BrF2N
solvent | dioxane | 15 mL | O1CCOCC1 | C4H8O2
catalyst | palladium acetate | 0.33 mmol, 74 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | biphenyl-3-yl-di-tert-butyl-phosphane | 0.033 mmol, 9.7 mg | C1(=CC(=CC=C1)P(C(C)(C)C)C(C)(C)C)C1=CC=CC=C1 | C20H27P
product | 4-[6-(4-Bromo-2,5-difluoro-phenylamino)-5-methyl-pyrimidin-4-yloxy]-piperidine-1-carboxylic acid isopropyl ester | 652 mg, 41% | C(C)(C)OC(=O)N1CCC(CC1)OC1=NC=NC(=C1C)NC1=C(C=C(C(=C1)F)Br)F | C20H23BrF2N4O3
